US09421205B2
(a) tert-Butyl 4-(4-nitrobenzyl)piperazine-1-carboxylate (I92)
1-(Bromomethyl)-4-nitrobenzene (1.08 g, 5.00 mmol) was added to a vigorously stirred mixture of tert-butyl piperazine-1-carboxylate (1.02 g, 5.50 mmol) and sodium carbonate (0.583 g, 5.50 mmol) in DMF (5 mL) at room temperature and the resulting mixture stirred for two hours. Water (25 mL) was added, and the resulting suspension was allowed to stand for five minutes then filtered. The collected solid was washed with water (25 mL) and air-dried to give the title compound (I92) (1.523 g, 95% yield); 1H NMR (400 MHz, CDCl3) δ 8.32-8.10 (m, 2H), 7.51 (d, J=8.8 Hz, 2H), 3.59 (s, 2H), 3.52-3.39 (m, 4H), 2.43-2.34 (m, 4H), 1.45 (s, 9H). LCMS Method C: rt 4.58 min, m/z 266.1 [M-tBu+2H]+, 222.1 [M-Boc+2H]+.

reactant | 1-(Bromomethyl)-4-nitrobenzene | 5.00 mmol, 1.08 g | BrCC1=CC=C(C=C1)[N+](=O)[O-] | C7H6BrNO2
reactant | tert-butyl piperazine-1-carboxylate | 5.50 mmol, 1.02 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | sodium carbonate | 5.50 mmol, 0.583 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | 25 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(4-nitrobenzyl)piperazine-1-carboxylate | 1.523 g, 95% yield | [N+](=O)([O-])C1=CC=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H23N3O4
